US07713994B2
(4Z)-4-[(1,1′-Biphenyl-4-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione
A mixture of 0.500 g (2.46 mmol) of 4-methoxymethylene-4H-isoquinoline-1,3-dione and 0.416 g (2.46 mmol) of 4-aminobiphenyl in 8 mL of N,N-dimethylformamide is heated at 105° C. under N2 for 1.5 h. The reaction is then chilled in ice and the solid product is collected. It is washed with cold N,N-dimethylformamide (DMF) and Et2O and dried in vacuo to give 0.295 g (35%) of yellow crystals: mp 261-262° C.; 1H NMR (DMSO-d6) δ 12.5 (d, 1H, J=9 Hz), 11.4 (s, 1H), 9.94 (d, 1H, J=9 Hz), 8.21 (d, 1H, J=6 Hz), 8.05 (d, 1H, J=6 Hz), 7.68 (m, 7H), 7.47 (m, 2H), 7.36 (m, 2H); HRMS (ESI) m/z calcd for C22H16N2O2 341.12846. found 341.12811 (M+H)+1; Analysis for C22H16N2O2; Calcd: C, 77.63; H, 4.74; N, 8.23. Found: C, 77.36; H, 4.66; N, 8.25.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 2.46 mmol, 0.500 g | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-aminobiphenyl | 2.46 mmol, 0.416 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-[(1,1′-Biphenyl-4-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione | 0.295 g, 35% | C1(=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C22H16N2O2
